US07910595B2
5-Chloro-6-nitro-2-thiazol-2-yl-benzooxazole
To a flask equipped with a vigreux column was added 2-amino-4-chloro-5-nitro-phenol, thiazole-2-carbaldehyde, Darco KB and xylenes. The mixture was then refluxed overnight and the mixture was cooled, filtered and the solvent removed under vacuum. The resultant solid was recrystallized from Et2O to yield 4.76 g (63%) of a yellow colored solid.

reactant | 2-amino-4-chloro-5-nitro-phenol | NC1=C(C=C(C(=C1)Cl)[N+](=O)[O-])O | C6H5ClN2O3
reactant | thiazole-2-carbaldehyde | S1C(=NC=C1)C=O | C4H3NOS
reactant | Darco | C | CH4
product | 5-Chloro-6-nitro-2-thiazol-2-yl-benzooxazole | 4.76 g, 63% | ClC=1C(=CC2=C(N=C(O2)C=2SC=CN2)C1)[N+](=O)[O-] | C10H4ClN3O3S
